US08492387B2
To a room temperature solution of 1-benzylindane-1-carboxylic acid (2.4 g, 9.5 mmol) in 50 mL of tetrahydrofuran was added N-methylmorpholine (1 g, 10 mmol). Isobutyl chloroformate (1.4 g, 10 mmol) was added and the reaction was stirred at room temperature for 30 minutes. The reaction was filtered and the supernatant was isolated and evaporated. The residue was dissolved in 50 mL of diethyl ether and excess CH2N2 (25 mmol of diazomethane prepared from a 70 mL diethyl ether solution of Diazald (7.5 g, 35 mmol) and 7.5 g of potassium hydroxide in 12 mL of water) was added and the reaction was stirred at room temperature overnight. The reaction was washed with water (3×20 mL) and the organic layer was isolated and stirred at room temperature while 10 mL of 48% aqueous HBr was slowly added. The reaction was stirred for 1 hour at room temperature then poured over approximately 50 grams of ice and extracted into diethyl ether (3×50 mL). The combined organic washings were dried over MgSO4 and evaporated to furnish 1-(1-benzyl-2,3-dihydro-1H-inden-1-yl)-2-bromoethanone, a red-brown oil sufficiently pure for the next step.

reactant | 1-benzylindane-1-carboxylic acid | 9.5 mmol, 2.4 g | C(C1=CC=CC=C1)C1(CCC2=CC=CC=C12)C(=O)O | C17H16O2
reactant | N-methylmorpholine | 10 mmol, 1 g | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 10 mmol, 1.4 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | 25 mmol | [N+](=[N-])=C | CH2N2
reactant | Diazald | 35 mmol, 7.5 g | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | potassium hydroxide | 7.5 g | [OH-].[K+]
reactant | HBr | 10 mL | Br | BrH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 12 mL | O | H2O
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
product | 1-(1-benzyl-2,3-dihydro-1H-inden-1-yl)-2-bromoethanone | C(C1=CC=CC=C1)C1(CCC2=CC=CC=C12)C(CBr)=O | C18H17BrO
